US06531491B1
A mixture of N-(2-fluoro-5-nitro-phenyl)-benzamide (4.86 g, 18.7 mmol) and 10% Pd/C (486 mg) in a 1:1 mixture of THF-MeOH (80 ml) was hydrogenated at 23° C. After 2.5 h the reaction mixture was filtered through celite and concentrated to give N-(5-Amino-2-fluoro-phenyl)-benzamide (3.92 g, 91%). MS (ESI+) [M+H]/z Calc'd 231, found 231.

reactant | N-(2-fluoro-5-nitro-phenyl)-benzamide | 18.7 mmol, 4.86 g | FC1=C(C=C(C=C1)[N+](=O)[O-])NC(C1=CC=CC=C1)=O | C13H9FN2O3
catalyst | Pd/C | 486 mg | [Pd] | Pd
solvent | THF MeOH | 80 ml | C1CCOC1.CO
product | N-(5-Amino-2-fluoro-phenyl)-benzamide | 3.92 g, 91% | NC=1C=CC(=C(C1)NC(C1=CC=CC=C1)=O)F | C13H11FN2O
